US06797718B2
1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl (3-phenylprop-2-ynyl) ether (5.4 g, 13.122 mmol) from Part H and ammonium acetate (54 g) were combined in a glass pressure vessel. The vessel was sealed with a teflon screw cap, and the reaction mixture was heated to 150° C. for 45 hours. The reaction was essentially complete, and the resulting reaction solution was cooled with an ice bath, acidified to a pH of 1 with 10% hydrochloric acid, and washed with dichloromethane (3×500 mL). The combined organic portions were washed with 10% hydrochloric acid (4×). The acidic aqueous portions were combined, basified with potassium hydroxide pellets to a pH of 14. The resulting brown solids were filtered off and recrystallized from methanol. A first crop of 0.6 g was collected for use in Example 5, and a second crop was collected and found to contain about 2% of the 4-hydroxy compound by NMR analysis. The second crop was returned to the mother liquor, and dichloromethane was added until all solids were dissolved. 1M Hydrochloric acid in diethyl ether (20 mL) was added to the resulting solution, and the solids that formed were filtered off, and dissolved in water, which was basified to a pH of 14 with potassium hydroxide pellets. The resulting solution was washed with dichloromethane (3×). The organic portions were combined, washed with water (2×) and brine (2×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting white solid (1.8 g) was dissolved in dichloromethane (150 mL), and 1M hydrochloric acid in diethyl ether (5.3 mL) was added to the resulting solution. The acidified solution was concentrated under reduced pressure. The resulting solids were dissolved in water, and this aqueous solution was filtered to remove an oily sludge. The filtrate was basified with a few drops of 20% potassium hydroxide and then 1N potassium hydroxide to a pH of 13. The fine white precipitate that formed was filtered off, rinsed with diethyl ether, and dried under vacuum for 18 hours to provide 1.8064 g of 2,6,7-trimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 186.8-187.5° C.

reactant | 1-[2,6,7-Trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]eth-2-yl (3-phenylprop-2-ynyl) ether | 13.122 mmol, 5.4 g | C1(=CC=CC=C1)C#CCOCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)C | C26H25N3O2
reactant | ammonium acetate | 54 g | C(C)(=O)[O-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
product | 2,6,7-trimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine | 1.8064 g | CC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCC#CC1=CC=CC=C1 | C20H22N4O
